US08912180B2
To a mixture of trans-4-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)cyclohexanamine (700 mg) and N,N-dimethylformamide (7.0 mL) were added N-(tert-butoxycarbonyl)-N-methyl-L-methionine (622 mg), 1H-benzotriazol-1-ol (319 mg), and N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (452 mg), followed by stirring at room temperature overnight. After the completion of the reaction, water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and then dried over anhydrous magnesium sulfate. The desiccant was removed by filtration and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=90:10-40:60) to obtain tert-butyl [(2S)-1-{[trans-4-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)cyclohexyl]amino}-4-(methylsulfanyl)-1-oxobutan-2-yl]methylcarbamate (859 mg).

reactant | trans-4-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)cyclohexanamine | 700 mg | FC(C1=NC2=C(N1C1=CC(=NC(=N1)N1CCOCC1)O[C@@H]1CC[C@H](CC1)N)C=CC=C2)F | C22H26F2N6O2
reactant | N-(tert-butoxycarbonyl)-N-methyl-L-methionine | 622 mg | C(C)(C)(C)OC(=O)N([C@@H](CCSC)C(=O)O)C | C11H21NO4S
reactant | 1H-benzotriazol-1-ol | 319 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 452 mg | Cl.CN(CCCN=C=NCC)C
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 7.0 mL | CN(C=O)C | C3H7NO
product | tert-butyl [(2S)-1-{[trans-4-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)cyclohexyl]amino}-4-(methylsulfanyl)-1-oxobutan-2-yl]methylcarbamate | 859 mg | FC(C1=NC2=C(N1C1=CC(=NC(=N1)N1CCOCC1)O[C@@H]1CC[C@H](CC1)NC([C@H](CCSC)N(C(OC(C)(C)C)=O)C)=O)C=CC=C2)F | C33H45F2N7O5S
